Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ondansetron
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Mr. ___ is a ___ w/ PMH which includes supraglottic 
larygneal squamous cell carcinoma dx ___, undergoing 
chemotherapy and radiation s/p G-tube placement on ___ for 
nutritional support. Presents to the hospital again with N/V. He 
was recently discharged from the hospital over the weekend after 
receiving a ___/ taxol regimen in the hopes this would improve 
his n/v. He was previously on a cisplatin regimen. Pt and wife 
report he usually has N/V about five days after chemotherapy. 
Unfortuately it seems this new regimen has not relieved this 
unpleasant side effect. At home he has been suffering from 
multiple episodes of N/V and is very dehydrated. Denies 
diarrhea, melena, hematochezia. No F/C. Has had chronic cough 
since cancer diagnosis, denies recent change. Denies CP, SOB, 
DOE with walking. No dysuria.  
 
Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies blurry vision, diplopia, loss of vision, 
photophobia. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations, lower 
extremity edema. Denies cough, shortness of breath, or wheezes. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
melena, hematemesis, hematochezia. Denies dysuria, stool or 
urine incontinence. Denies arthralgias or myalgias. Denies 
rashes or skin breakdown. No numbness/tingling in extremities. 
All other systems negative.  
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: noticed hoarseness
- Seen by Dr. ___ in ___ ENT in ___. Endoscopy 
showed a large mass in the supraglottic larynx.  
- ___: Biopsy showed squamous cell carcinoma in the 
supraglottic area.  There was also involvement of the epiglottis 

and the patient underwent further staging scan including a CT 
and a PET scan.  
- ___: PET scan confirmed the FDG-avid lesions, no
regional lymph nodes, but there was also some pre-epiglottic
extension and also uptake in the sixth rib and L4 of uncertain
significance
- ___: C1D1 Cisplatin with concurrent radiation
  
PAST MEDICAL HISTORY:  
Hemolytic anemia ___
 
Social History:
___
Family History:
Sister had breast and pancreatic cancer. 
 
Physical Exam:
===========================
ADMISSION EXAM
===========================
Vitals: T:97.8 BP:110/60 HR:76 RR:16 02 sat:98%RA  
GENERAL: NAD, comfortable in chair  
CARDIAC:  RRR, no m,r,g
LUNG:  CTABL
ABDOMEN: soft, NT, ND BS+, PEG in place erythema around port 
site but no evidence of infection, no purulent drainage 
EXTREMITIES: no ___ edema 
PULSES: 2+ radial pulses
NEURO: normal gait, no focal deficits  

===========================
DISCHARGE EXAM
===========================
Vitals: 98.3 110/62 72 18 100ra 
GENERAL: NAD 
HEENT: Sclera anicteric, no mucosal bleeding in OP.  Anterior 
neck erythematous with scaling. Voice hoarse.  
CARDIAC:  RRR, no m,r,g
LUNG:  CTABL
ABDOMEN: soft, NT, ND BS+, PEG in place w/ mild erythema under 
plastic on port site but no evidence of infection, no purulent 
drainage 
EXTREMITIES: no ___ edema 
PULSES: 2+ radial pulses
 
Pertinent Results:
===========================
ADMISSION LABS
===========================

___ 07:40PM   WBC-3.5* RBC-3.13* HGB-10.3* HCT-29.5* MCV-94 
MCH-32.9* MCHC-35.0 RDW-14.3
___ 07:40PM   NEUTS-84.6* LYMPHS-9.0* MONOS-5.6 EOS-0.7 
BASOS-0.1
___ 07:40PM   ___ PTT-59.4* ___
___ 07:40PM   ALBUMIN-3.8 CALCIUM-9.2 PHOSPHATE-4.4 
MAGNESIUM-2.4
___ 07:40PM   ALT(SGPT)-19 AST(SGOT)-23 ALK PHOS-66 TOT 
BILI-0.8
___ 07:40PM   GLUCOSE-93 UREA N-16 CREAT-0.7 SODIUM-134 
POTASSIUM-4.6 CHLORIDE-96 TOTAL CO2-32 ANION GAP-11

===========================
DISCHARGE LABS
===========================
___ 07:30AM BLOOD WBC-2.6* RBC-2.92* Hgb-9.4* Hct-27.7* 
MCV-95 MCH-32.2* MCHC-33.9 RDW-15.0 Plt ___
___ 07:30AM BLOOD Glucose-115* UreaN-14 Creat-0.5 Na-137 
K-4.6 Cl-98 HCO3-32 AnGap-12
___ 07:30AM BLOOD Calcium-9.2 Phos-4.0 Mg-1.9

===========================
COAGS
===========================
___ 07:40PM BLOOD ___ PTT-59.4* ___
___ 07:25AM BLOOD ___ PTT-65.5* ___
___ 07:15AM BLOOD ___ PTT-61.0* ___
___ 07:30AM BLOOD ___ PTT-60.5* ___
___ 07:15AM BLOOD ___ 07:15AM BLOOD Inh Scr-PND
 
Brief Hospital Course:
A ___ man with a history of laryngeal cancer readmitted
to the hospital with nausea and vomiting and dehydration
following recent administration of chemotherapy.

1.  Nausea and vomiting:  Most likely chemo related, although
less severe than with his previous regimen of cisplatin.  Given
that he only presented with one day of vomiting four to five
times, his outpatient providers decided to continue his current
regimen of carboplatin and Taxol.  After admission to the
hospital, the patient's nausea and vomiting were well controlled
with p.o. antiemetics and he did not have any further episodes 
of
nausea or vomiting.  His tube feeds were restarted and he was
allowed to take clears p.o. and he tolerated this diet without
any difficulty.

2.  Laryngeal cancer:  The patient received his second dose of
carboplatin and Taxol while he was admitted on ___. 
He will require standing antiemetic regimen with taper as
reproduced below:
compazine q6hours standing starting day 2 after chemo
dexamethasone 4mg PO BID starting Day 2 after chemo.
stading zyprexa bid x 5 days then cont prn as below
ativan ___ q4-6h prn nausea and standing before bed
zyprexa 2.5 to ___ disintigrating prn nausea q8hr

3.  Nutrition:  PEG tube was in place and his current home tube 
feed
regimen was continued per nutrition recommendations.

4.  Elevated ___ and PTT:  This was initially attributed to
subcutaneous heparin administration.  His heparin was decreased
to b.i.d. and then discontinued.  However, his ___ and PTT
remained prolonged and review of his medical records showed that
they had been prolonged for as long as he had been tested in our
hospital system.  A fibrinogen was checked to ensure that there
was no consumptive process and was normal.  An inhibitor screen
was sent, especially in consideration of his history of
autoimmune hemolytic anemia, which was still pending at time of 
discharge.

TRANSITIONAL ISSUES:
- followup inhibitor screen and coags
- close outpatient f/u with orthostatics and hydration as needed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam 0.5-1 mg PO Q4H:PRN nausea, anxiety 
2. Maalox/Diphenhydramine/Lidocaine 30 mL PO QIDACHS mucositis 
3. Nystatin Oral Suspension 5 mL PO QID 
4. Pantoprazole 20 mg PO DAILY 
5. Ranitidine 150 mg PO DAILY 
6. Prochlorperazine 10 mg PO Q6H:PRN nausea 
7. OLANZapine 5 mg PO BID:PRN nausea 
8. OxycoDONE-Acetaminophen Elixir ___ mL PO Q6H:PRN pain 

 
Discharge Medications:
1. Dexamethasone 4 mg PO Q12H 
RX *dexamethasone 4 mg 2 tablet(s) by mouth twice daily Disp 
#*36 Tablet Refills:*0
2. OLANZapine (Disintegrating Tablet) 2.5 mg PO TID:PRN nausea 
RX *olanzapine 5 mg 0.5 - 1 tablet,disintegrating(s) by mouth 
twice daily Disp #*60 Tablet Refills:*0
3. Pantoprazole 20 mg PO DAILY 
RX *pantoprazole 20 mg 1 tablet,delayed release (___) by 
mouth daily Disp #*30 Tablet Refills:*0
4. Home oral suction setup for laryngeal cancer
5. Lorazepam 0.5-1 mg PO Q4H:PRN nausea, anxiety 
6. Maalox/Diphenhydramine/Lidocaine 30 mL PO QIDACHS mucositis 
7. Nystatin Oral Suspension 5 mL PO QID 
8. OxycoDONE-Acetaminophen Elixir ___ mL PO Q6H:PRN pain 
9. Prochlorperazine 10 mg PO Q6H 
10. Ranitidine 150 mg PO DAILY 
11. OLANZapine 10 mg PO DAILY Duration: 5 Days 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Nausea/vomiting, induced by chemotherapy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted with nausea and vomiting that was due to your 
chemotherapy regimen.  You received your next dose of 
chemotherapy and will be taking a very aggressive medication 
regimen to help prevent nausea. 
 
Followup Instructions:
___